US06953859B2
A part of the reaction solution was sampled and the components of the reaction solution were analyzed by HPLC, as a result, the concentration of the starting material 2-hydroxyhexanoic acid amide was 1.3 mass % in the solution and the concentration of 5-butyl-oxazolidin-2,4-dione sodium salt as the objective product was 25.9 mass % in the solution. From these analysis values, the conversion of 2-hydroxyhexanoic acid amide was 93.8% and the yield in terms of 5-butyl-oxazolidin-2,4-dione was 88.7%.

reactant | 2-hydroxyhexanoic acid amide | OC(C(=O)N)CCCC | C6H13NO2
reactant | 5-butyl-oxazolidin-2,4-dione sodium salt | [Na].C(CCC)C1C(NC(O1)=O)=O
product | 5-butyl-oxazolidin-2,4-dione | C(CCC)C1C(NC(O1)=O)=O | C7H11NO3
